2117-11-26 06:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Pretransplant Workup Started.
   - Liver following, recommended transplant work up.
   - started on NAC
   - charcoal 30- 50gm q12 hrs
   - high dose cimetidine
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Penicillin G potassium - [**2117-11-26**] 04:40 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2117-11-25**] 03:30 PM
   Famotidine (Pepcid) - [**2117-11-25**] 03:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-11-26**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 98 (88 - 144) bpm
   BP: 150/82(97) {131/70(90) - 175/102(114)} mmHg
   RR: 15 (12 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  2,211 mL
                                                                  2,914 mL
   PO:
             120 mL
   TF:
   IVF:
                                                                  2,211 mL
                                                                  2,794 mL
   Blood products:
   Total out:
                                                                  2,050 mL
                                                                  1,450 mL
   Urine:
                                                                    200 mL
                                                                    450 mL
   NG:
                                                                    250 mL
   Stool:
                                                                  1,600 mL
                                                                  1,000 mL
   Drains:
   Balance:
                                                                    161 mL
                                                                  1,464 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///20/
   Physical Examination
   Cardiovascular: Gen: NAD
   CV: RRR, tachycardic
   Lungs: CTAB
   Abd: soft, minimally tender, ABS
   Ext: no c/c/e
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   240 K/uL
   13.6 g/dL
   149 mg/dL
   0.9 mg/dL
   20 mEq/L
   4.0 mEq/L
   17 mg/dL
   115 mEq/L
   147 mEq/L
   40.8 %
   12.1 K/uL
        [image002.jpg]
                            [**2117-11-25**]  10:07 PM
                            [**2117-11-26**]  02:30 AM
   WBC
   13.2
   12.1
   Hct
   43.3
   40.8
   Plt
   286
   240
   Cr
   0.9
   0.9
   Glucose
   135
   149
   Other labs: PT / PTT / INR:14.1/27.2/1.2, ALT / AST:1280/1109, Alk Phos
   / T Bili:38/0.8, Amylase / Lipase:13/25, Differential-Neuts:90.6 %,
   Lymph:6.5 %, Mono:2.3 %, Eos:0.3 %, Albumin:4.9 g/dL, LDH:1173 IU/L,
   Ca++:9.1 mg/dL, Mg++:2.2 mg/dL, PO4:3.0 mg/dL
   Imaging: none
   Microbiology: pre liver transplant workup pending
   Assessment and Plan
 ANXIETY
 HEPATITIS, ACUTE TOXIC (INCLUDING ALCOHOLIC, ACETAMINOPHEN, ETC.)
 POISONING / OVERDOSE, OTHER
   mushroom ingestion poisoning
 IMPAIRED HEALTH MAINTENANCE
 LIVER FUNCTION ABNORMALITIES
 TACHYCARDIA, OTHER
   45 yo M with h/o HTN, HL, presents with N/V/D and LFT abnormalities
   after mushroom ingestion.
   .
   #. Mushroom ingestion:  Pt doing poorly with rapidly rising LFTs.  Will
   likely need liver transplant.  Currently undergoing supportive
   management.  Not significant data on treatment for Amanita Phalloides
   ingestion.
   - 1) Activated Charcoal - 1 dose at home and 2 doses in ED.  Restarted
   at q12 hrs.
     2) NAC - 100mg/kg over 16hrs (stage 2), to be followed by Stage 3 of
   NAC protocol
     3) PEN G 500,000U/kg over 24hrs (6 doses every 4hrs), watch for
   seizure activity
     4) Milk Thistle 1250mg tid
     5) Cimetedine 3gm IV q 6 hrs, - Annals of Emergency Medicine [**2115**];
   50;282-288.  Rsp [**2116-9-11**];52;184
   - f/u toxicology recs, appreciate input, particularly regarding course
   of high dose medications, inform pharmacy so they are able to obtain
   enough medication.
   - f/u Liver
   - call Tranplant early to see him
   - Pretranplant workup started
   - try to get Silamarin (active compound in Milk Thistle)  as traetment
   .
   #. Tachycardia/Hypertension:
   - IVF, NS running as fast as possible through limited access
   - consider restarting home medication if hypertension becoming
   concerning
   FEN: NPO for now, lytes prn, IVF fluids
   .
   PPX:
   -DVT ppx with heparin SC
   -Bowel regimen - having active diarrhea
   -Pain management with none
   - Antiemetics prn
   -FI with H2Blocker
   .
   ACCESS: PIV's, Obtain PICC
   .
   CODE STATUS: confirmed full
   .
   EMERGENCY CONTACT: wife
   .
   DISPOSITION: ICU
   .
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2117-11-25**] 12:06 PM
   18 Gauge - [**2117-11-25**] 12:28 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2117-11-26 08:52:00 Physician Attending Progress Note
Chief Complaint: Liver Failure secondary to mushroom ingestion
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Diarrhea overnight, nausea
   24 Hour Events:
   Mushrooms ingested identified as amanita
   Transaminase continue to rise
   History obtained from [**Hospital 15**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Penicillin G potassium - [**2117-11-26**] 04:40 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2117-11-25**] 03:30 PM
   Heparin Sodium (Prophylaxis) - [**2117-11-25**] 03:30 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain.  Tachycardia
   Respiratory: No(t) Dyspnea
   Gastrointestinal: Nausea, Diarrhea
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2117-11-26**] 08:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 97 (88 - 144) bpm
   BP: 142/85(99) {131/70(90) - 175/102(114)} mmHg
   RR: 17 (12 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  2,211 mL
                                                                  3,870 mL
   PO:
             120 mL
   TF:
   IVF:
                                                                  2,211 mL
                                                                  3,750 mL
   Blood products:
   Total out:
                                                                  2,050 mL
                                                                  1,450 mL
   Urine:
                                                                    200 mL
                                                                    450 mL
   NG:
                                                                    250 mL
   Stool:
                                                                  1,600 mL
                                                                  1,000 mL
   Drains:
   Balance:
                                                                    161 mL
                                                                  2,420 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///20/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, plea
   Labs / Radiology
   13.6 g/dL
   240 K/uL
   149 mg/dL
   0.9 mg/dL
   20 mEq/L
   4.0 mEq/L
   17 mg/dL
   115 mEq/L
   147 mEq/L
   40.8 %
   12.1 K/uL
        [image002.jpg]
                            [**2117-11-25**]  10:07 PM
                            [**2117-11-26**]  02:30 AM
   WBC
   13.2
   12.1
   Hct
   43.3
   40.8
   Plt
   286
   240
   Cr
   0.9
   0.9
   Glucose
   135
   149
   Other labs: PT / PTT / INR:14.5/27.1/1.3, ALT / AST:1747/1377, Alk Phos
   / T Bili:37/0.9, Amylase / Lipase:13/25, Differential-Neuts:90.6 %,
   Lymph:6.5 %, Mono:2.3 %, Eos:0.3 %, Albumin:4.9 g/dL, LDH:1370 IU/L,
   Ca++:9.1 mg/dL, Mg++:2.2 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 ANXIETY
 HEPATITIS, ACUTE TOXIC (INCLUDING ALCOHOLIC, ACETAMINOPHEN, ETC.)
 POISONING / OVERDOSE, OTHER
   mushroom ingestion poisoning
 IMPAIRED HEALTH MAINTENANCE
 LIVER FUNCTION ABNORMALITIES
 TACHYCARDIA, OTHER
   45 yo man with evolving liver failure, acute hepatitis due to amanita
   mushroom poisoning.  Rising transaminases, not frankly coagulopathic
   yet - potential.
   -high dose PCN
   -Hepatology, liver transplant teams following - liver tx work-up
   -Continue aggressive hydration
   -Continue NAC
   -Activated charcoal D/C's due to diarrhea
   -po milk thistle (silybum)
   -Cimetidine
   -Cont to follow LFTs, coags, renal function frequently
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2117-11-25**] 12:06 PM
   18 Gauge - [**2117-11-25**] 12:28 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2117-11-27 07:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - IV silibunin started, d/c'd PCN and cimetidine
   - continuek NAC
   - transplant w/u
     - ECHO: LVEF >55%, mild dilation LA and coronary sinus, otherwise
   normal
     - got CT and u/s Abd, CXR
     - labs per liver
   - PICC placed but unclear location, pulled back to midline
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Penicillin G potassium - [**2117-11-26**] 05:16 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-11-27**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 95 (66 - 118) bpm
   BP: 133/78(91) {120/64(78) - 159/92(107)} mmHg
   RR: 26 (0 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  9,099 mL
                                                                  1,663 mL
   PO:
                                                                    480 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  8,619 mL
                                                                  1,183 mL
   Blood products:
   Total out:
                                                                  4,700 mL
                                                                    200 mL
   Urine:
                                                                  3,050 mL
                                                                    200 mL
   NG:
   Stool:
                                                                  1,650 mL
   Drains:
   Balance:
                                                                  4,399 mL
                                                                  1,463 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   156 K/uL
   11.7 g/dL
   119 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.1 mEq/L
   7 mg/dL
   107 mEq/L
   140 mEq/L
   33.5 %
   7.2 K/uL
        [image002.jpg]
                            [**2117-11-25**]  10:07 PM
                            [**2117-11-26**]  02:30 AM
                            [**2117-11-26**]  10:42 AM
                            [**2117-11-26**]  05:30 PM
                            [**2117-11-26**]  09:06 PM
                            [**2117-11-27**]  01:28 AM
                            [**2117-11-27**]  05:30 AM
   WBC
   13.2
   12.1
   7.2
   Hct
   43.3
   40.8
   33.5
   Plt
   286
   240
   156
   Cr
   0.9
   0.9
   0.8
   0.7
   0.8
   0.7
   0.7
   Glucose
   135
   149
   119
   Other labs: PT / PTT / INR:14.8/29.2/1.3, ALT / AST:3854/2204, Alk Phos
   / T Bili:35/1.5, Amylase / Lipase:13/25, Differential-Neuts:78.4 %,
   Lymph:15.9 %, Mono:3.0 %, Eos:2.2 %, Albumin:3.7 g/dL, LDH:974 IU/L,
   Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:2.0 mg/dL
   Imaging: Abd u/s:  Echogenic liver, likely reflecting preexisting fatty
   liver disease. patent
   hepatic, portal veins and hepatic arteries with appropriate direction
   of flow.
   CT ABD: pending
   Assessment and Plan
   45 yo M with h/o HTN, HL, presents with N/V/D and LFT abnormalities
   after mushroom ingestion.
   .
   #. Mushroom ingestion:  Pt with rapidly rising LFTs, now trending
   down.  Currently undergoing evaluation for liver transplant.    IV
   silibunin started, PCN and cimetidine d/c
d.  NAC continued in stage 3
   of protocol.
   - NAC
 continue stage 3 in protocol until otherwise advised by
   liver/tox
   - continue  IV silibunin
   - f/u toxicology recs, appreciate input, particularly regarding course
   of high dose medications, inform pharmacy so they are able to obtain
   enough medication.
   - f/u Liver
   - Pretranplant workup started
   - continue LFTs q4 until trend established
   #. Tachycardia/Hypertension: improved
   - IVF
   - consider restarting home medication if hypertension becoming
   concerning
   # FEN: NPO for now, lytes prn, IVF fluids
   # PPX:
   -DVT ppx with heparin SC
   -Bowel regimen - having active diarrhea
   -Pain management with none
   - Antiemetics prn
   -FI with H2Blocker
   .
   # ACCESS: PIV's, Obtain PICC
   .
   # CODE STATUS: confirmed full
   .
   # EMERGENCY CONTACT: wife
   .
   # DISPOSITION: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2117-11-25**] 12:06 PM
   18 Gauge - [**2117-11-25**] 12:28 PM
   PICC Line - [**2117-11-26**] 11:53 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2117-11-27 10:25:00 Physician Attending Progress Note
Chief Complaint: mushroom ingestion
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Feeling better - mentally more clea. No abd pain. Feels stronger
   24 Hour Events:
 EKG - At [**2117-11-26**] 10:30 AM
 TRANSTHORACIC ECHO - At [**2117-11-26**] 11:45 AM
 PICC LINE - START [**2117-11-26**] 11:53 AM
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Penicillin G potassium - [**2117-11-26**] 05:16 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2117-11-27**] 09:01 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG
   tube, + appetite
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice
   Endocrine: No(t) Hyperglycemia
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache
   Psychiatric / Sleep: alert, feels well
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Flowsheet Data as of  [**2117-11-27**] 10:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37
C (98.6
   HR: 69 (66 - 107) bpm
   BP: 125/77(88) {120/64(78) - 150/92(107)} mmHg
   RR: 16 (0 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  9,099 mL
                                                                  2,242 mL
   PO:
                                                                    480 mL
                                                                    720 mL
   TF:
   IVF:
                                                                  8,619 mL
                                                                  1,522 mL
   Blood products:
   Total out:
                                                                  4,700 mL
                                                                    200 mL
   Urine:
                                                                  3,050 mL
                                                                    200 mL
   NG:
   Stool:
                                                                  1,650 mL
   Drains:
   Balance:
                                                                  4,399 mL
                                                                  2,042 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, w/o icterus
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : ), (Breath Sounds: Clear : , No(t) Crackles : ,
   No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   11.7 g/dL
   156 K/uL
   119 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.1 mEq/L
   7 mg/dL
   107 mEq/L
   140 mEq/L
   33.5 %
   7.2 K/uL
        [image002.jpg]
                            [**2117-11-25**]  10:07 PM
                            [**2117-11-26**]  02:30 AM
                            [**2117-11-26**]  10:42 AM
                            [**2117-11-26**]  05:30 PM
                            [**2117-11-26**]  09:06 PM
                            [**2117-11-27**]  01:28 AM
                            [**2117-11-27**]  05:30 AM
   WBC
   13.2
   12.1
   7.2
   Hct
   43.3
   40.8
   33.5
   Plt
   286
   240
   156
   Cr
   0.9
   0.9
   0.8
   0.7
   0.8
   0.7
   0.7
   Glucose
   135
   149
   119
   Other labs: PT / PTT / INR:14.8/29.2/1.3, ALT / AST:3393/1540, Alk Phos
   / T Bili:35/1.5, Amylase / Lipase:13/25, Differential-Neuts:78.4 %,
   Lymph:15.9 %, Mono:3.0 %, Eos:2.2 %, Albumin:3.7 g/dL, LDH:974 IU/L,
   Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
 ANXIETY
 HEPATITIS, ACUTE TOXIC (INCLUDING ALCOHOLIC, ACETAMINOPHEN, ETC.)
 POISONING / OVERDOSE, OTHER
   mushroom ingestion poisoning
 IMPAIRED HEALTH MAINTENANCE
 LIVER FUNCTION ABNORMALITIES
 TACHYCARDIA, OTHER
   LFTs appear to be peaking and now declinig.  Unclear if this is a
   response to milk thistle or if this is simply a mild toxic ingestion.
   In any case will continue infusion until LFTs have returned to [**Location 810**].
   Needs continued close observation over next several days with
   monitoring of transaminases and INR.  HR has improved and remains
   afebrile.  Will transfer to liver service.
   Plt ct is declining. Will review all meds. Unlikely to be a consequence
   of toxic ingestion.  Would seem early for heparin.
   ICU Care
   Nutrition:
   Comments: Starting regular diet
   Glycemic Control:  Comments: none needed
   Lines:
   20 Gauge - [**2117-11-25**] 12:06 PM
   18 Gauge - [**2117-11-25**] 12:28 PM
   PICC Line - [**2117-11-26**] 11:53 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 40 minutes